US06090813
4-(1-(4-Pyrimidinyl)piperazin-4ylcarbonyl)piperidine (412 mg; 1.5 mmol) was dissolved in CH2Cl2 (16 ml), cooled in an ice bath, stirred and treated dropwise with a mixture of 4-Chlorobenzenesulfonyl chloride (338 mg; 1.6 mmol) and Et3N (0.3 ml; 2 mmol) in CH2Cl2 (16 ml). The reaction mixture was allowed to reach room temperature and stirred thus for 18 h before treating with saturated NaHCO3 (aq) This mixture was then extacted twice with CH2Cl2. The combined organic extracts were washed twice each with water and brine, dried over MgSO4, filtered and evaporated under reduced pressure to a yellow solid. The solid thus obtained was chromatographed through a 10 g silica "bond elut" prepacked column, eluting with 1% methanol, 1% ammonimum hydroxide and 98% CH2Cl2 to obtain 1-(4-chlorophenylsulphonyl)-4-(1-(4-pyrimidinyl)piperazin-4-ylcarbonyl)piperidine (178 mg; 26% yield based on the amine ), a white solid, m.p. 125-128° C.;

reactant | 4-(1-(4-Pyrimidinyl)piperazin-4ylcarbonyl)piperidine | 1.5 mmol, 412 mg | N1=CN=C(C=C1)N1CCN(CC1)C(=O)C1CCNCC1 | C14H21N5O
reactant | 4-Chlorobenzenesulfonyl chloride | 1.6 mmol, 338 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Et3N | 2 mmol, 0.3 ml | CCN(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 16 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 16 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenylsulphonyl)-4-(1-(4-pyrimidinyl)piperazin-4-ylcarbonyl)piperidine | 26% yield | ClC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)N1CCN(CC1)C1=NC=NC=C1 | C20H24ClN5O3S
